US08383644B2
(3S,8S)-3-[3-(3,4-Dichloro-benzyloxy)-phenyl]-8-{(S)-2-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-1-methoxycarbonyl-ethylcarbamoyl}-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester
(3S,8S)-3-[3-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester (80 mg) was taken up in 2 mL of anhydrous DCM and EDCI (34 mg), HOBT (25 mg) and (S)-2-amino-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester dihydrochloride (50 mg) were added and stirred for minutes. The reaction mixture was cooled to 0° C. and DIEA (85 mg) was added and reaction was stirred at room temperature for 2 hours. After the reaction was complete, it was purified by column chromatography (silica gel; 1:3 ethyl acetate/hexanes to 4% MeOH in 1:1 ethyl acetate/hexanes) (70 mg). LCMS (m/z): 869.

reactant | (3S,8S)-3-[3-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester | 80 mg | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2C[C@H]1C(=O)O)OC[C@@H](O3)C3=CC(=CC=C3)OCC3=CC(=C(C=C3)Cl)Cl | C30H29Cl2NO7
reactant | HOBT | 25 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (S)-2-amino-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester dihydrochloride | 50 mg | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)OC1=C(C(=NC=C1)C)C)N)=O
reactant | DIEA | 85 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | EDCI | 34 mg | CCN=C=NCCCN(C)C | C8H17N3
product | (3S,8S)-3-[3-(3,4-Dichloro-benzyloxy)-phenyl]-8-{(S)-2-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-1-methoxycarbonyl-ethylcarbamoyl}-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2C[C@H]1C(N[C@@H](CC1=CC=C(C=C1)OC1=C(C(=NC=C1)C)C)C(=O)OC)=O)OC[C@@H](O3)C3=CC(=CC=C3)OCC3=CC(=C(C=C3)Cl)Cl | C47H47Cl2N3O9
